US07544697B2
A solution of ethyl 5-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]-1-methyl-1H-pyrazole-3-carboxylate (8.13 g, 25.9 mmol) in hydrochloric acid (33 mL of 1 M) and acetic acid (33 mL) was heated at reflux intermittently for six hours and allowed to cool to room temperature; a precipitate formed. Water was added, and the solid was isolated by filtration, washed with water, and dried on the vacuum filter funnel for two days to provide 3.79 g of 5-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]-1-methyl-1H-pyrazole-3-carboxylic acid as a brown solid.

reactant | ethyl 5-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]-1-methyl-1H-pyrazole-3-carboxylate | 25.9 mmol, 8.13 g | O=C1N(C(C2=CC=CC=C12)=O)CC1=CC(=NN1C)C(=O)OCC | C16H15N3O4
reactant | Water | O | H2O
solvent | hydrochloric acid | 1 M, 33 mL | Cl | ClH
solvent | acetic acid | 33 mL | C(C)(=O)O | C2H4O2
product | 5-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]-1-methyl-1H-pyrazole-3-carboxylic acid | 3.79 g | O=C1N(C(C2=CC=CC=C12)=O)CC1=CC(=NN1C)C(=O)O | C14H11N3O4
